US07964594B1
To a solution of 3-hydroxy-pyridine-2-carboxylic acid methyl ester (200 mg, 1.3 mmol) in N,N-dimethylformamide (2.0 ml) was added at 22° C. sodium hydride (55% in oil, 64 mg) and stirring was continued until gas evolution ceased. The suspension was cooled to 0° C. and treated with trifluoroethyl trifluormethanesulfonate (728 mg) and stirring was continued at 22° C. for 2 hours. The mixture was partitioned between saturated sodium hydrogen-carbonate solution and ethyl acetate, and the organic layer was dried and evaporated. The residue was purified by chromatography on silica using n-heptane and ethyl acetate (3:1) as the eluent to give 3-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester as a pale green oil. MS (ESI): m/z=236.2 [M+H]+. b) A solution of 3-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester (216 mg, 0.9 mmol) in methanol (1 ml) was treated with a solution of lithium hydroxide (78 mg, 3.3 mmol) in water (0.1 ml) and stirring was continued at 22° C. for 2 hours. The solution was evaporated and the residue triturated with 1N aqueous hydrochloric acid. The suspension was filtered, the residue washed with water and dried to give 3-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid as a colorless solid. MS (ESI): m/z=220.0 [M−H]−. c) The coupling of [(S)-4-(5-amino-2-fluoro-phenyl)-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tent-butyl ester and 3-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid yielded the title compound as a white powder. MS (ESI): m/z=427.1 [M+H]+.

reactant | 3-hydroxy-pyridine-2-carboxylic acid methyl ester | 1.3 mmol, 200 mg | COC(=O)C1=NC=CC=C1O | C7H7NO3
reactant | sodium hydride | 64 mg | [H-].[Na+]
reactant | trifluoroethyl trifluormethanesulfonate | 728 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 3-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CC=C1OCC(F)(F)F | C9H8F3NO3
